US07829560B2
3-Morpholin-4-yl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide (Compound B169).
Compound is formed by reacting 3-bromo-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide with morpholine under conditions described in general procedure B. Mp: 90-92° C. 1H NMR (300 MHz, DMSO-d6) δ 10.16 (s, 1H), 8.19 (m, 1H), 7.81 (m, 1H), 7.58 (s, 1H), 7.53 (m, 3H), 7.40 (m, 2H), 7.17 (d, 1H, J=8.4), 7.01 (d, 1H, J=8.7), 4.30 (t, 2H, J=4.8), 3.74 (m, 4H), 3.57 (m, 4H), 3.18 (m, 4H), 2.85 (t, 2H, J=5.7), 2.54 (m, 4H). MS: 462.2 (M+1).

reactant | 3-bromo-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide | BrC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CC1 | C23H23BrN2O3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 3-Morpholin-4-yl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide | N1(CCOCC1)C=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CC1 | C27H31N3O4
